US05013738
C. Methyl 4-(5-Acetoxy-pent-1-en-2-yl)benzoate
Methyl triphenylphosphonium (1.5 g, 1.1 eq) was suspended in 50 ml of anhydrous tetrahydrofuran and 4.0 ml of 1.0M solution of sodium hexamethyldisilazide (1.05 eq) in tetrahydrofuran were added via syringe. The mixture was stirred at room temperature for one hour and a solution of 1.0 g (1.0 eq) of methyl 4-(4-acetoxy-1-oxobutyl)benzoate in anhydrous tetrahydrofuran, was added dropwise. The resulting reaction mixture was stirred for 2 hours at room temperature. Sodium bromide/triphenylphosphineoxide precipitate was removed by filtration, and the filtrate washed with water. After extraction of the aqueous layer with diethyl ether, the organic layers were dried over magnesium sulfate and evaporated to dryness to yield the product which was further purified by flash chromatography eluting with 1:5 ethyl acetate:hexanes. M.S.:m/z=262 (M+,CI), 231.1020 (M+ --CH3O, calc. for C14H15O3 : 231.1021), 202 (M+ - AcOH), 176, 143 (100%). 1H-N.M.R. (CDCl3, 300 MHz): δ=1.80(quin, 2H, CH2 --CH2 --CH2, J=7.5 Hz); 2:04(s, 3H, CH3 --CO); 2.62 (t, 2H, CH2 --C=, J=7.5 Hz); 3.94(s, 3H, CH3O); 4.10(t, 2H, CH2O, J=7.5 Hz); 5.20 (s, 1Holef.); 5.41(s, 1Holef.); 7.48(d, 2Harom., J=9 Hz); 8.01(d, 2Harom., J=9 Hz).

reactant | Methyl triphenylphosphonium | 1.5 g, 1.1 eq | C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | sodium hexamethyldisilazide | 1.05 eq | C[Si]([N-][Si](C)(C)C)(C)C.[Na+]
reactant | methyl 4-(4-acetoxy-1-oxobutyl)benzoate | 1.0 g, 1.0 eq | C(C)(=O)OCCCC(=O)C1=CC=C(C(=O)OC)C=C1 | C14H16O5
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | Methyl 4-(5-Acetoxy-pent-1-en-2-yl)benzoate | C(C)(=O)OCCCC(=C)C1=CC=C(C(=O)OC)C=C1 | C15H18O4
